US07015328B2
3-Cyano-2-imino-4-phenyl-2H-chromene
To a mixture of 2-hydroxybenzophenone (2.0 g, 10 mmol) and malononitrile (661 mg, 10 mmol) in ethanol (15 mL) was added piperidine (0.5 mL, 5.0 mmol). The mixture was stirred under 0-5° C. for 2 h. The solvent was evaporated and the residue was purified by chromatography on silica gel with ethyl acetate and hexane (1:2) as eluant, yielding 1.2 g (48%) of the title compound. 1H NMR (CDCl3): 7.74-7.29 (m, 7H), 7.20-7.13 (m, 2H).

reactant | 2-hydroxybenzophenone | 10 mmol, 2.0 g | OC1=C(C(=O)C2=CC=CC=C2)C=CC=C1 | C13H10O2
reactant | malononitrile | 10 mmol, 661 mg | C(CC#N)#N | C3H2N2
reactant | piperidine | 5.0 mmol, 0.5 mL | N1CCCCC1 | C5H11N
solvent | ethanol | 15 mL | C(C)O | C2H6O
product | 3-Cyano-2-imino-4-phenyl-2H-chromene | 1.2 g, 48% | C(#N)C=1C(OC2=CC=CC=C2C1C1=CC=CC=C1)=N | C16H10N2O
